### PR TITLE
[Merged by Bors] - feat(RingTheory/DedekindDomain/AdicValuation): values in adic integers have unit denominator

### PR DESCRIPTION
**Pull request by matthewjasper**
If `R` is a Dedekind domain and v a valuation on R, then any v-adic integer in the field of fractions of `K` can be written as `n / d` with `n d : R` and `v d = 1`.
Part of showing `R` is dense in `O_v`, which is used to show that `R / v` is isomorphic to the residue field of `O_v` and
to construct the base change isomorphism for finite adeles.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 1]
```diff
@@ -226,6 +228,11 @@ theorem intValuation_lt_one_iff_mem (r : R) :
     v.intValuation r < 1 ↔ r ∈ v.asIdeal := by
   rw [intValuation_lt_one_iff_dvd, Ideal.dvd_span_singleton]
 
+/-- The `v`-adic valuation of `r ∈ R` is equal to 1 if and only if `r ∈ vᶜ`. -/
+theorem mem_compl_iff_intValuation_eq_one (r : R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean]: The name and the actual declaration are in opposite directions.

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 2]
```diff
@@ -406,6 +413,61 @@ theorem eq_of_valuation_isEquiv_valuation {p q : HeightOneSpectrum R}
...
+  -- write `x` or `x⁻¹` as `n / d` with `d ∈ vᶜ`.
+  obtain (⟨r, hr⟩ | ⟨r, hr⟩) :=
+    ValuationRing.isInteger_or_isInteger (Localization v.asIdeal.primeCompl) x
+  <;> obtain ⟨⟨n, d⟩, hnd⟩ := IsLocalization.surj v.asIdeal.primeCompl r
+  <;> use n, d
+  <;> apply_fun algebraMap _ K at hnd
+  <;> grind [=_ IsScalarTower.algebraMap_apply]
+
+/-- The `v`-adic integers of `K` are an R-subalgebra of K. -/
+instance : Algebra R (v.valuation K).integer :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean]: I am a little skeptical about this one and afraid it will create diamonds (it usually happens with `RinHom.toAlgebra`). Since `(v.valuation K).integer` is actually a subring of `K` can you just show that the subring corresponding to `R` is `≤` than it? This is also what your doc says.

Comment (matthewjasper) [reply Mathlib/RingTheory/DedekindDomain/AdicValuation.lean]: I've changed this to just be the `RingHom` and used `IsLocalizationMap` in the final result.

Comment (riccardobrasca) [reply Mathlib/RingTheory/DedekindDomain/AdicValuation.lean]: Why not proving that `R` is included in the ring of integers?

Comment (matthewjasper) [reply Mathlib/RingTheory/DedekindDomain/AdicValuation.lean]: `valuation_le_one` is basically that result already. I've simplified this down to just the result that's actually useful to me for the density result.

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 3]
```diff
@@ -405,6 +411,37 @@ theorem eq_of_valuation_isEquiv_valuation {p q : HeightOneSpectrum R}
   simp_all [Valuation.isEquiv_iff_val_lt_one, HeightOneSpectrum.ext_iff, Ideal.ext_iff,
     ← valuation_lt_one_iff_mem (K := K)]
 
+set_option backward.isDefEq.respectTransparency false in
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:414]: Sorry if I already asked this, but can you check if this is still needed with latest master?

**Comment by riccardobrasca** [comment]
LGTM. @matthewjasper I am waiting to merge it since we are putting a lot of energy to merge #26872 later today, and it's possible that one proof will break in your PR, so let's wait a bit.

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean (hunk 3 above)
Comment (matthewjasper) [reply Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:414]: It is. I had a look into this, and it can be fixed by making some definitions `implicit_reducible`, but I don't want to get into that discussion on this PR.

Comment (riccardobrasca) [reply Mathlib/RingTheory/DedekindDomain/AdicValuation.lean:414]: Yeah, that's fine.
